US03959322
Suspend the foregoing dl-3-methoxy-17,17-ethylenedioxy-6-methyl-13-ethylgona-1,3,5(10)-triene (9.0 g) in methanol (200 cc) and concentrated hydrochloric acid (5.0 cc) and heat on the steam bath for 15 minutes. Remove the solvent under vacuum, partition the residue between ether and aqueous sodium bicarbonate and isolate the product. Recrystallize from methanol to obtain the dl-3-methoxy-6-methyl-13-ethylgona-1,3,5(10)-trien-17-one (7.29 g), m.p. 115°-123°C. Recrystallize a small portion to obtain an analytical sample, m.p. 123°-127°C, λ max. EtOH 280 mμ, λ max. KBr 5.75 μ.

reactant | 3-methoxy-17,17-ethylenedioxy-6-methyl-13-ethylgona-1,3,5(10)-triene | 9.0 g | COC1=CC=2C(C[C@@H]3[C@H](CC[C@@]4(C5(CC[C@@H]34)OCCO5)CC)C2C=C1)C | C23H32O3
reactant | hydrochloric acid | 5.0 cc | Cl | ClH
solvent | methanol | 200 cc | CO | CH4O
product | 3-methoxy-6-methyl-13-ethylgona-1,3,5(10)-trien-17-one | 7.29 g | COC1=CC=2C(C[C@@H]3[C@H](CC[C@@]4(C(CC[C@@H]34)=O)CC)C2C=C1)C | C21H28O2
